US08486967B2
e) 4-(3,4-Difluoro-phenyl)-4,5,6,7-tetrahydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine
To a solution of 3-((5-amino-4H-1,2,4-triazol-3-yl)(3,4-difluorophenyl)amino)propan-1-ol (31 mg, 115 μmol) in tetrahydrofurane (1.15 mL) was added at 0° C. under an atmosphere of nitrogen triphenylphosphine (45.3 mg, 173 μmol). The reaction was stirred for 15 minutes and then DEAD (31.0 mg, 28.2 μL, 173 μmol) was added. The reaction was stirred for 30 minutes at 0° C. and then at room temperature over night. The same procedure was repeated with additional triphenylphosphine (45.3 mg, 173 μmol) and DEAD (31.0 mg, 28.2 μL, 173 μmol). Water was added and the reaction was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution and with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The title compound was obtained as a colorless solid (14 mg, 48%) after column chromatography on silica gel using a gradient from methylene chloride to methylene chloride/methanol 19:1 (v/v) as eluent. MS ISP (m/e): 252.3 (100) [(M+H)+].

reactant | 3-((5-amino-4H-1,2,4-triazol-3-yl)(3,4-difluorophenyl)amino)propan-1-ol | 115 μmol, 31 mg | NC=1NC(=NN1)N(CCCO)C1=CC(=C(C=C1)F)F | C11H13F2N5O
reactant | DEAD | 173 μmol, 28.2 μL, 31.0 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 173 μmol, 45.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 173 μmol, 28.2 μL, 31.0 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Water | O | H2O
solvent | tetrahydrofurane | 1.15 mL | O1CCCC1 | C4H8O
product | 4-(3,4-Difluoro-phenyl)-4,5,6,7-tetrahydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine | FC=1C=C(C=CC1F)N1C=2N(CCC1)N=C(N2)N | C11H11F2N5
